US06800659B2
(E,E)-2- Aminothiocarbonyl-3-(3,5-dimethoxy-4-hydroxystyryl)acrylonitrile (CR12)
The compound was prepared as described in Example 3 by adding 3,5-dimethoxy-4-hydroxycinnamaldehyde (0.15 g, 0.72 mmol) to 2-cyanothioacetamide (0.073 g, 0.72 mmol). After refluxing for 1 h the residue was purified on a TLC-plate in hexane-ethyl acetate, 1:1 to give a red solid (0.10 g, 52%). The product gave the following analytical data:

reactant | 3,5-dimethoxy-4-hydroxycinnamaldehyde | 0.72 mmol, 0.15 g | COC=1C=C(C=CC=O)C=C(C1O)OC | C11H12O4
reactant | 2-cyanothioacetamide | 0.72 mmol, 0.073 g | C(#N)CC(=S)N | C3H4N2S
product | (E,E)-2- Aminothiocarbonyl-3-(3,5-dimethoxy-4-hydroxystyryl)acrylonitrile | 0.10 g, 52% | NC(=S)\C(\C#N)=C\C=C\C1=CC(=C(C(=C1)OC)O)OC | C14H14N2O3S
